US07981897B2
2.1 g of the free base of EMD281014 are heated in 50 ml of acetone, and water is added until a clear solution is formed. A mixture of 0.6 ml of hydrochloric acid (w=37%) and 1.2 ml of acetone is then stirred in. The mixture is subsequently evaporated to half the volume in a rotary evaporator. The precipitated hydrochloride is filtered off with suction, washed with acetone and diethyl ether and dried, giving 1.6 g of 7-{4-[2-(4-fluorophenyl)ethyl]-piperazine-1-carbonyl}-1H-indole-3-carbonitrile, hydrochloride (69% of theory), decomposition range 314-319°.

reactant | EMD281014 | C1CN(CCN1CCC2=C(C=C(C=C2)F)F)C(=O)C3=CC=CC4=C3NC=C4C#N | C22H20F2N4O
reactant | water | O | H2O
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 1.2 ml | CC(=O)C | C3H6O
product | 7-{4-[2-(4-fluorophenyl)ethyl]-piperazine-1-carbonyl}-1H-indole-3-carbonitrile, hydrochloride | 1.6 g, 69% | Cl.FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C=1C=CC=C2C(=CNC12)C#N | InChI=1S/C22H21FN4O.ClH/c23-18-6-4-16(5-7-18)8-9-26-10-12-27(13-11-26)22(28)20-3-1-2-19-17(14-24)15-25-21(19)20;/h1-7,15,25H,8-13H2;1H
